US05366982
ethyl 2-ethyl-2-methyl-6-[(4,6-diphenyl-2-pyridyl)oxy]hexanoate.
The procedure in Example 5 is followed but using 4,6-diphenyl-2-pyridinone (3 g), ethyl 6-bromo-2-ethyl-2-methylhexanoate (6.44 g) [prepared according to the method of K. E. MOELLER, Brenstoff-Chem., 47, 10 (1966)], silver carbonate (1.68 g) and dimethylformamide (110 cc). The reaction mixture is heated at 100° C. for 121 hours. The product is purified by chromatography under pressure on silica gel (30-60 mm; eluent: n-hexane-ethyl acetate 9-1).(yellow oil)

reactant | 4,6-diphenyl-2-pyridinone | 3 g | C1(=CC=CC=C1)C1=CC(NC(=C1)C1=CC=CC=C1)=O | C17H13NO
reactant | ethyl 6-bromo-2-ethyl-2-methylhexanoate | 6.44 g | BrCCCCC(C(=O)OCC)(C)CC | C11H21BrO2
catalyst | silver carbonate | 1.68 g | C([O-])([O-])=O.[Ag+2]
solvent | dimethylformamide | 110 cc | CN(C=O)C | C3H7NO
product | ethyl 2-ethyl-2-methyl-6-[(4,6-diphenyl-2-pyridyl)oxy]hexanoate | C(C)C(C(=O)OCC)(CCCCOC1=NC(=CC(=C1)C1=CC=CC=C1)C1=CC=CC=C1)C | C28H33NO3
